US04645765
To a solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (50 mg) and 4-dimethylaminopyridine (150 mg) in dimethylformamide (2 ml) was added propionyl chloride (0.1 ml) in an ice-water bath. The mixture was stirred for 20 hours at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and mthanol (10:1, v/v) to afford 8-carbamoyloxymethyl-4-formyl-9-hydroxy-11-propionyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl propionate (30 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 50 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | propionyl chloride | 0.1 ml | C(CC)(=O)Cl | C3H5ClO
catalyst | 4-dimethylaminopyridine | 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 8-carbamoyloxymethyl-4-formyl-9-hydroxy-11-propionyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl propionate | 30 mg | C(CC)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)O)C(CC)=O)C=O | C20H23N3O8
